US04742052
A mixture of 1-p-nitrobenzyloxycarbonyl-4-mercaptopiperidine (1.19 g), t-butyl bromoacetate (780 mg) and 1,8-diazabicyclo[5,4,0]undec-7-ene (DBU) (608 mg) in benzene (10 ml) was stirred for 5 minutes under nitrogen atmosphere. The reaction mixture was washed successively with water, dilute hydrochloric acid and water, dried over anhydrous sodium sulfate and evaporated to give 1-p-nitrobenzyloxycarbonyl-4-t-butoxycarbonylmethylthiopiperidine.

reactant | 1-p-nitrobenzyloxycarbonyl-4-mercaptopiperidine | 1.19 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)S)C=C1 | C13H16N2O4S
reactant | t-butyl bromoacetate | 780 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 608 mg | N12CCCCCC2=NCCC1 | C9H16N2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 1-p-nitrobenzyloxycarbonyl-4-t-butoxycarbonylmethylthiopiperidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)SCC(=O)OC(C)(C)C)C=C1 | C19H26N2O6S
